US04154935
A suspension of 1-(3-acetylthio-2-trifluoromethylpropanoyl)-L-proline (1 g.) in water (10 ml.) is adjusted to pH 8 by addition of normal sodium hydroxide. The resulting solution is freeze dried to yield 1-(3-acetylthio-2-trifluoromethylpropanoyl)-L-proline sodium salt.

reactant | 1-(3-acetylthio-2-trifluoromethylpropanoyl)-L-proline | 1 g | C(C)(=O)SCC(C(=O)N1[C@H](C(=O)O)CCC1)C(F)(F)F | C11H14F3NO4S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 10 ml | O | H2O
product | 1-(3-acetylthio-2-trifluoromethylpropanoyl)-L-proline sodium salt | [Na+].C(C)(=O)SCC(C(=O)N1[C@H](C(=O)[O-])CCC1)C(F)(F)F | InChI=1S/C11H14F3NO4S.Na/c1-6(16)20-5-7(11(12,13)14)9(17)15-4-2-3-8(15)10(18)19;/h7-8H,2-5H2,1H3,(H,18,19);/q;+1/p-1/t7?,8-;/m0./s1
